US07671055B2
Step E Synthesis of 3-[4-(2,2-dimethyl(2,3-dihydrobenzo[2,3-b]furan-7-yloxy))butoxy]-4,5-dichlorophenol as an intermediate
A mixture of 0.5 gram (0.001 mole) of 7-{4-[2,3-dichloro-5-(phenylmethoxy)phenoxy}-2,2-dimethyl-2,3-dihydrobenzo[b]furan and 0.1 gram (catalyst) of 10% palladium on carbon in 75 mL of ethanol was placed in a Parr hydrogenation bottle and hydrogenated using a Parr hydrogenation apparatus. Upon the theoretical uptake of hydrogen gas, the reaction mixture was filtered to remove the catalyst, and the filtrate was concentrated under reduced pressure to a residue. The residue was purified with column chromatography on silica gel using 100% methylene chloride, then 5% methanol in methylene chloride as eluants. The appropriate fractions were combined and concentrated under reduced pressure, yielding 0.17 gram of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 4-[2,3-dichloro-5-(phenylmethoxy)phenoxy}-2,2-dimethyl-2,3-dihydrobenzo[b]furan | ClC1=C(OC2=CC=CC=3OC(CC32)(C)C)C=C(C=C1Cl)OCC1=CC=CC=C1 | C23H20Cl2O3
reactant | ethanol | 75 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.1 gram | [Pd] | Pd
product | 3-[4-(2,2-dimethyl(2,3-dihydrobenzo[2,3-b]furan-7-yloxy))butoxy]-4,5-dichlorophenol | 0.17 gram | CC1(CC2=C(O1)C(=CC=C2)OCCCCOC=2C=C(C=C(C2Cl)Cl)O)C | C20H22Cl2O4
